US05242908
Diethyl 4-methoxybenzylphosphonate (Z)
p-Methoxybenzyl chloride was reacted with triethyl phosphite as described in Example 2.

reactant | p-Methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl 4-methoxybenzylphosphonate | COC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H19O4P
